US07763639B2
2-(1-PROPYLPIPERIDIN-4-YL)-6-(TRIFLUOROMETHYL) BENZONITRILE
To a solution of 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-propylpiperidine (1.57 g, 5.4 mmol) in N,N-dimethylformamide (35 ml) was added sodium cyanide (1.0 g, 20 mmol) and 18-crown-6-ether (50 mg). The mixture was heated at reflux for 15 h and then brought to ambient temperature. Aqueous sodium carbonate (10%, 50 ml) was added and the phases were separated. The aqueous phase was extracted with ethylacetate (2×50 ml) and the combined organic phases was dried (MgSO4) and evaporated under reduced pressure to give an oil. Purification by flash column chromatography (ethylacetate/methanol, 1:1) gave the title compound: 0.72 g (45%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 272-274° C. MS m/z (relative intensity, 70 eV) 296 (M+, 4), 268 (16), 267 (bp), 204 (3), 184 (3).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-propylpiperidine | 5.4 mmol, 1.57 g | FC1=C(C=CC=C1C(F)(F)F)C1CCN(CC1)CCC | C15H19F4N
reactant | sodium cyanide | 20 mmol, 1.0 g | [C-]#N.[Na+]
reactant | 18-crown-6-ether | 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 2-(1-PROPYLPIPERIDIN-4-YL)-6-(TRIFLUOROMETHYL) BENZONITRILE | C(CC)N1CCC(CC1)C1=C(C#N)C(=CC=C1)C(F)(F)F | C16H19F3N2
